US05965490
13. Preparation of 2-Amino-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine
A mixture of 15.0 g (51 mmol) of 3-amino-8-chloro-5-methylthio[1,2,4]triazolo[4,3-c]pyrimidine hydrobromide, 8.2 mL (76 mmol) of ethyl acrylate, and 150 mL of methanol was prepared and cooled in an ice bath. A solution of 17 mL (76 mmol) of 4.5 molar sodium methoxide in methanol was added to this slowly with cooling and stirring. When the addition was complete, the mixture was allowed to warm to ambient temperature and was stirred for 18 hours. It was then neutralized with 2.0 mL of acetic acid. The solids that formed were recovered by filtration, washed with diethyl ether, and dried to obtain 7.7 g (75 percent of theory) of the title compound as a tan powder melting above 250° C.

reactant | 3-amino-8-chloro-5-methylthio[1,2,4]triazolo[4,3-c]pyrimidine hydrobromide | 51 mmol, 15.0 g | Br.NC1=NN=C2N1C(=NC=C2Cl)SC
reactant | ethyl acrylate | 76 mmol, 8.2 mL | C(C=C)(=O)OCC | C5H8O2
reactant | sodium methoxide | 76 mmol, 4.5 molar, 17 mL | C[O-].[Na+]
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
product | 2-Amino-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine | NC1=NN2C(=NC=C(C2=N1)Cl)OC | C6H6ClN5O
